US07544672B2
A mixture of N-(4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-2-yl)pivalamide (235 mg), 2-(chloromethyl)-4-methoxy-3,5-dimethylpyridine 1-oxide (129 mg), and K2CO3 (413 mg) in DMF (6.0 mL) was stirred at rt for 3 days, and diluted with water. The precipitate was collected by filtration and washed with IPA to give 2-((4-chloro-5-iodo-2-pivalamido-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl)-4-methoxy-3,5-dimethylpyridine 1-oxide (124 mg).

reactant | N-(4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-2-yl)pivalamide | 235 mg | ClC=1C2=C(N=C(N1)NC(C(C)(C)C)=O)NC=C2I | C11H12ClIN4O
reactant | 2-(chloromethyl)-4-methoxy-3,5-dimethylpyridine 1-oxide | 129 mg | ClCC1=[N+](C=C(C(=C1C)OC)C)[O-] | C9H12ClNO2
reactant | K2CO3 | 413 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 6.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-((4-chloro-5-iodo-2-pivalamido-7H-pyrrolo[2,3-d]pyrimidin-7-yl)methyl)-4-methoxy-3,5-dimethylpyridine 1-oxide | 124 mg | ClC=1C2=C(N=C(N1)NC(C(C)(C)C)=O)N(C=C2I)CC2=[N+](C=C(C(=C2C)OC)C)[O-] | C20H23ClIN5O3
